US06765012B2
4-Methyl-3-({4-[3-(4-methyl-piperazin-1-yl)-propylamino]-phenylamino}-methylene)-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 4-methyl-1,3-dihydro-indol-2-one for the 1,3-dihydro-indol-2-one and N-[3-(4-methyl-piperazin-1-yl)-propyl]-benzene-1,4-diamine (used for the preparation of Example 302) for aniline in the reaction of Example 1.

reactant | 4-methyl-1,3-dihydro-indol-2-one | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | 1,3-dihydro-indol-2-one | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N-[3-(4-methyl-piperazin-1-yl)-propyl]-benzene-1,4-diamine | CN1CCN(CC1)CCCNC1=CC=C(C=C1)N | C14H24N4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-Methyl-3-({4-[3-(4-methyl-piperazin-1-yl)-propylamino]-phenylamino}-methylene)-1,3-dihydro-indol-2-one | CC1=C2C(C(NC2=CC=C1)=O)=CNC1=CC=C(C=C1)NCCCN1CCN(CC1)C | C24H31N5O
